US07291635B2
The title A compound, (S)-2-amino-3-{4-[5-(4-methoxy-benzyl)-1,1,4-trioxo-1,2,5-thiadiazolidin-2-yl]-phenyl}-propionic acid benzyl ester (79 mg, 0.155 mmol) and (S)-2-acetylamino-3-phenyl-propionic acid (33.7 mg, 0.162 mmol) are dissolved in CH2Cl2 (3.1 mL). HOBt (24.8 mg, 0.162 mmol) is added as a solid, followed by EDCl (31.0 mg, 0.162 mmol) and TEA (0.023 mL, 0.162 mmol) in a slurry of CH2Cl2 (1 mL). After 1 h, EtOAc (100 mL) is added and the mixture is washed three times with 2N aqueous HCl (50 mL) followed by saturated aqueous NaHCO3 (50 mL). The EtOAc layer is dried over anhydrous Na2SO4 and concentrated to yield (S)-2-((S)-2-acetylamino-3-phenyl-propionylamino)-3-{4-[5-(4-methoxy-benzyl)-1,1,4-trioxo-1,2,5-thiadiazolidin-2-yl]-phenyl}-propionic acid benzyl ester as a white powder.

reactant | (S)-2-amino-3-{4-[5-(4-methoxy-benzyl)-1,1,4-trioxo-1,2,5-thiadiazolidin-2-yl]-phenyl}-propionic acid benzyl ester | 0.155 mmol, 79 mg | C(C1=CC=CC=C1)OC([C@H](CC1=CC=C(C=C1)N1S(N(C(C1)=O)CC1=CC=C(C=C1)OC)(=O)=O)N)=O | C26H27N3O6S
reactant | (S)-2-acetylamino-3-phenyl-propionic acid | 0.162 mmol, 33.7 mg | C(C)(=O)N[C@H](C(=O)O)CC1=CC=CC=C1 | C11H13NO3
reactant | HOBt | 0.162 mmol, 24.8 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCl | 0.162 mmol, 31.0 mg | CCN=C=NCCCN(C)C.Cl
solvent | CH2Cl2 | 3.1 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 1 mL | C(Cl)Cl | CH2Cl2
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
product | (S)-2-((S)-2-acetylamino-3-phenyl-propionylamino)-3-{4-[5-(4-methoxy-benzyl)-1,1,4-trioxo-1,2,5-thiadiazolidin-2-yl]-phenyl}-propionic acid benzyl ester | C(C1=CC=CC=C1)OC([C@H](CC1=CC=C(C=C1)N1S(N(C(C1)=O)CC1=CC=C(C=C1)OC)(=O)=O)NC([C@H](CC1=CC=CC=C1)NC(C)=O)=O)=O | C37H38N4O8S
